US07544835B2
c) 4-Fluoro-3-hydroxymethylbenzaldehyde
2.8 g of 5-Dimethoxymethyl-2-fluorobenzaldehyde was dissolved in 40 ml of diethyl ether, and 0.38 g of lithium aluminum hydride was added under ice-cooling. After being stirred at room temperature for 5 minutes, the reaction solution was ice-cooled and diethylether-water was added. When the insoluble precipitate adhered to the wall of the flask, the reaction solution was dried over anhydrous magnesium sulfate, then evaporated. The residue was dissolved in 25 ml of dichloromethane, and 8 ml of trifluoroacetic acid was added. The reaction mixture was stirred at room temperature for 2.5 hours, the reaction solution was diluted with water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then evaporated. The residue was subjected to silica gel column chromatography (30% ethyl acetate-hexane), to give 1.6 g of the title compound.

reactant | 5-Dimethoxymethyl-2-fluorobenzaldehyde | 2.8 g | COC(C=1C=CC(=C(C=O)C1)F)OC | C10H11FO3
reactant | lithium aluminum hydride | 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethylether water | C(C)OCC.O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 4-Fluoro-3-hydroxymethylbenzaldehyde | 1.6 g | FC1=C(C=C(C=O)C=C1)CO | C8H7FO2
